US04882329
(a) 3-(Isopropyl-3-(2-methoxyphenyl)-1-methylindolin-2-one
35.4 g (0.14 mol) of 3-(2-methoxyphenyl)-1-methylindolin- -2-one in 350 ml of dry THF are stirred with 16.1 g (0.14 mol) of potassium tertiary-butylate at room temperature for 15 minutes. Then at 10° C., a solution of 14.3 ml of 2-iodopropane in 70 ml of dry THF are added dropwise, and the mixture is then stirred at room temperature for 4 hours. The reaction mixture is left to stand overnight and then partitioned between water and ethyl acetate. After the organic phase has been evaporated, 4.8 g of product of melting point 113°-115° C. are obtained.

reactant | 3-(2-methoxyphenyl)-1-methylindolin- -2-one | 0.14 mol, 35.4 g | COC1=C(C=CC=C1)C1C(N(C2=CC=CC=C12)C)=O | C16H15NO2
reactant | 2-iodopropane | 14.3 ml | IC(C)C | C3H7I
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | Isopropyl-3-(2-methoxyphenyl)-1-methylindolin-2-one | 4.8 g | C(C)(C)C1(C(N(C2=CC=CC=C12)C)=O)C1=C(C=CC=C1)OC | C19H21NO2
